US07790747B2
2,6-Dichloro-4-methyl-N—((R)-3-{4-[(2-methylamino-acetyl)-thiophen-3-ylmethyl-amino]-piperidin-1-yl}-butyl)-nicotinamide
Following general procedure E: to a stirred solution of 2,6-dichloro-4-methyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide (62 mg, 0.137 mmol), (tert-butoxycarbonyl-methyl-amino)-acetic acid (28 mg, 0.159 mmol), HOBt (24 mg, 0.177 mmol) and DIPEA (59 μL, 0.34 mmol) in DMF (3 ml) was added EDCI (34 mg, 0.177 mmol). The reaction was stirred at rt overnight under N2 pressure. The resultant crude product (88 mg) was used in the next step.

reactant | 2,6-dichloro-4-methyl-N—((R)-3-{4-[(thiophen-3-ylmethyl)-amino]-piperidin-1-yl}-butyl)-nicotinamide | 0.137 mmol, 62 mg | ClC1=C(C(=O)NCC[C@@H](C)N2CCC(CC2)NCC2=CSC=C2)C(=CC(=N1)Cl)C | C21H28Cl2N4OS
reactant | (tert-butoxycarbonyl-methyl-amino)-acetic acid | 0.159 mmol, 28 mg | C(C)(C)(C)OC(=O)N(C)CC(=O)O | C8H15NO4
reactant | HOBt | 0.177 mmol, 24 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.34 mmol, 59 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.177 mmol, 34 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2,6-Dichloro-4-methyl-N—((R)-3-{4-[(2-methylamino-acetyl)-thiophen-3-ylmethyl-amino]-piperidin-1-yl}-butyl)-nicotinamide | ClC1=C(C(=O)NCC[C@@H](C)N2CCC(CC2)N(CC2=CSC=C2)C(CNC)=O)C(=CC(=N1)Cl)C | C24H33Cl2N5O2S
